US07691850B2
b) (3S,4S)-4-(aminomethyl)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol
To a solution of phenylmethyl[((3S,4S)-4-hydroxy-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (1.46 g, 3.34 mmole) in MeOH (100 mL) in a round bottom flask was added Pd(OH)2 (˜100 mg). The reaction contents were stirred under a balloon of H2 overnight at RT. The reaction contents were filtered through Celite® (MeOH) and concentrated to give the title compound (x g, quant.) as a light yellow foam: LC-MS (ES) m/e 303 (M+H)+.

reactant | phenylmethyl[((3S,4S)-4-hydroxy-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 3.34 mmole, 1.46 g | C1(=CC=CC=C1)COC(NC[C@H]1CN(C[C@H]1O)CCC1=CC=NC2=CC=C(N=C12)OC)=O | C24H28N4O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd(OH)2 | ˜100 mg | [OH-].[OH-].[Pd+2]
product | (3S,4S)-4-(aminomethyl)-1-{2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinol | NC[C@@H]1[C@@H](CN(C1)CCC1=CC=NC2=CC=C(N=C12)OC)O | C16H22N4O2
